US07749992B2
Step 7. Preparation of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (2312873)
A mixture of crude 5-(3,5-Bis-trifluoromethyl-benzylamino)-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (1.40 g, 2.38 mmol) and pyridine (5.00 ml) was treated with acetic anhydride (5.00 ml) via dropwise addition. The mixture was stirred at room temperature overnight and then diluted with ethyl acetate (50.0 ml), washed with 1.00N HCl (2×50.0 ml) and brine (3×150 ml). Dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (gradient eluent, 0-40% ethyl acetate in hexane) provided the titled compound (1.28 g, 85%) as white foamy solid. MS (ES+): 629, 631 (M+H).

reactant | 5-(3,5-Bis-trifluoromethyl-benzylamino)-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 2.38 mmol, 1.40 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)Cl)Br | C23H22BrClF6N2O2
reactant | pyridine | 5.00 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5.00 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 50.0 ml | C(C)(=O)OCC | C4H8O2
product | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 1.28 g, 85% | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)Cl)Br | C25H24BrClF6N2O3
